### PR TITLE
feat: abstract Hecke operators

### PR DESCRIPTION
**Pull request by kbuzzard**
If G is a group and U,V are subgroups such that UgV is a finite union of left cosets of V then for any additive abelian group with a G-action we define T_g : A^V -> A^U.

### CODE REVIEW

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators.lean [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+-/
+
+section move_these
+
+-- This should be in Mathlib.Algebra.BigOperators.Finprod
+lemma finsum_mem_eq_finset_sum {ι A : Type*} [AddCommMonoid A]
+    {s : Set ι} (hs : s.Finite) (f : ι → A) :
+    ∑ᶠ i ∈ s, f i = ∑ i ∈ hs.toFinset, f i := by
+  rw [finsum_mem_eq_sum_of_inter_support_eq]
+  simp
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators.lean:51]: This is `finsum_mem_eq_finite_toFinset_sum` (quite the mouthful), and it's in `Mathlib.Algebra.BigOperators.Finprod`

Comment (kbuzzard) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators.lean]: Thanks; removed.

File: FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators.lean [hunk 2]
```diff
@@ -0,0 +1,182 @@
...
+    · intro x hx
+      obtain ⟨y, hy, rfl⟩ := h₃ hx
+      refine ⟨f y, ?_, rfl⟩
+      refine ⟨y, hy, rfl⟩
+  · rintro ⟨h₁, h₂, h₃⟩
+    refine ⟨?_, ?_, ?_⟩
+    · exact Set.mapsTo_image_iff.mp h₁
+    · apply Set.InjOn.comp h₂ hf
+      exact Set.mapsTo_image f s
+    · exact Set.SurjOn.comp h₃ fun ⦃a⦄ a ↦ a
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/AutomorphicForm/QuaternionAlgebra/HeckeOperators.lean]: This is all done in https://github.com/leanprover-community/mathlib4/pull/23286 in a far slicker way now.
